US08293913B2
0.072 g of 5-(3-(3-fluorophenylsulfonyl)quinolin-8-yl)octahydro-1H-pyrrolo[3,4-c]pyridin-2-ium chloride were prepared by analogy to the methods of Examples 27 and 28 by coupling of 3-(3-fluorophenylsulfonyl)-8-iodoquinoline with commercially available tert-butyl hexahydro-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate and subsequent deprotection of the tert-butyl-oxycarbonyl derivative with HCl in isoproanol.

reactant | 3-(3-fluorophenylsulfonyl)-8-iodoquinoline | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9FINO2S
reactant | tert-butyl hexahydro-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C1N(CC2CNCCC21)C(=O)OC(C)(C)C | C12H22N2O2
reactant | HCl | Cl | ClH
product | 5-(3-(3-fluorophenylsulfonyl)quinolin-8-yl)octahydro-1H-pyrrolo[3,4-c]pyridin-2-ium chloride | 0.072 g | [Cl-].FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1CC2C(CC1)C[NH2+]C2 | InChI=1S/C22H22FN3O2S.ClH/c23-18-4-2-5-19(10-18)29(27,28)20-9-15-3-1-6-21(22(15)25-13-20)26-8-7-16-11-24-12-17(16)14-26;/h1-6,9-10,13,16-17,24H,7-8,11-12,14H2;1H
